US05763196
As shown in FIG. 2, to a solution of 4-aminobutyraldehyde diethylacetal (5 g, 31 mmol) in 100 ml of saturated bicarbonate was added N-methoxycarbonylmaleimide (4.91 g, 31.6 mmol) at 0° C. (icebath). After 15 minutes, tetrahydrofuran (100 ml) was added at room temperature and the resultant mixture stirred for 1 hour. The resultant mixture was then acidified with 1N hydrochloric acid to pH 6-7 and extracted with ethyl acetate (3×200 ml). The combined organic extracts were dried (MgSO4) and evaporated in vacuo. The crude product was purified by chromatography on silica gel 60 eluting with ethyl acetate/petroleum ether 1:2 to yield 4-maleimidobutyraldehyde diethylacetal as a yellow oil (4.31 g; 58%), TLC Rf=0.65, ethyl acetate/hexane 1:1.

reactant | 4-aminobutyraldehyde diethylacetal | 31 mmol, 5 g | C(C)OC(CCCN)OCC | C8H19NO2
reactant | N-methoxycarbonylmaleimide | 31.6 mmol, 4.91 g | COC(=O)N1C(C=CC1=O)=O | C6H5NO4
reactant | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | bicarbonate | 100 ml | C([O-])(O)=O
product | 4-maleimidobutyraldehyde diethylacetal | C(C)OC(CCCN1C(C=CC1=O)=O)OCC | C12H19NO4
